US04233333
At a temperature of 30° to 50° C., 248 gm (1.35 mol) of sodium 5-methyl-furan-2-sulfonate were admixed in portions with 281 gm (1.35 mol) of phosphorus pentachloride and the mixture was stirred for 15 minutes at 50° C. The reaction mixture was then poured over ice and extracted with ether. The ether phase was washed until neutral, dried and evaporated. The residue (200 gm of 5-methyl-furan-2-sulfonic acid chloride) was dissolved in 500 ml of ether, and the solution was added dropwise to a solution of 280 ml (2.7 mol) of tert.-butylamine in 500 ml of ether at a temperature of 5° to 10° C. After stirring at room temperature and at reflux temperature, each for 2 hours, the reaction mixture was washed with ice water, dilute hydrochloric acid and water and then evaporated. The residue was recrystallized from cyclohexane, yielding 180.5 gm (61.5% of theory) of N-tert. butyl-5 -methyl-furan-2-sulfonamide. M.p. 113°-114° C.

reactant | sodium 5-methyl-furan-2-sulfonate | 1.35 mol, 248 gm | CC1=CC=C(O1)S(=O)(=O)[O-].[Na+]
reactant | phosphorus pentachloride | 1.35 mol, 281 gm | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | tert.-butylamine | 2.7 mol, 280 ml | C(C)(C)(C)N | C4H11N
solvent | ether | 500 ml | CCOCC | C4H10O
product | N-tert. butyl-5 -methyl-furan-2-sulfonamide | 180.5 gm, 61.5% | C(C)(C)(C)NS(=O)(=O)C=1OC(=CC1)C | C9H15NO3S
